US05344843
A mixture of 4-[[2-(2-naphthalenyloxy)ethyl]oxy]-alpha-oxobenzeneacetic acid methyl ester (3.2 g) in 95% ethanol (700 mL) was heated at reflux and 1N sodium hydroxide (15 mL) was added dropwise. Heating was continued for five minutes and the resulting mixture was chilled in ice, filtered, washed with water and dried at 80° C. over phosphorus pentoxide at 0.1 mm to give 3.2 g of colorless 4-[[2-(2-naphthalenyloxy)ethyl]oxy]-alphaoxobenzeneacetic acid sodium salt, mp>295° C. with decomposition.

reactant | 4-[[2-(2-naphthalenyloxy)ethyl]oxy]-alpha-oxobenzeneacetic acid methyl ester | 3.2 g | COC(C(C1=CC=C(C=C1)OCCOC1=CC2=CC=CC=C2C=C1)=O)=O | C21H18O5
reactant | sodium hydroxide | 1N, 15 mL | [OH-].[Na+]
solvent | ethanol | 700 mL | C(C)O | C2H6O
product | 4-[[2-(2-naphthalenyloxy)ethyl]oxy]-alphaoxobenzeneacetic acid sodium salt | 3.2 g | [Na+].C1=C(C=CC2=CC=CC=C12)OCCOC1=CC=C(C=C1)C(C(=O)[O-])=O | InChI=1S/C20H16O5.Na/c21-19(20(22)23)15-6-8-17(9-7-15)24-11-12-25-18-10-5-14-3-1-2-4-16(14)13-18;/h1-10,13H,11-12H2,(H,22,23);/q;+1/p-1
